US04021542
3,5-dimethyl-1-(α-D-arabinofuranosyl)pyrazole
1 g of Pd-black is pre-hydrogenated for 2 hours in 25 ml of absolute methanol. Then 3 g (6.0 mmoles) of 3,5-dimethyl-1-(2,3,5-tri-O-benzyl-α-D-arabinofuranosyl)pyrazole are added in 25 ml of absolute methanol and 0.8 ml of concentrated hydrochloric acid. Hydrogenation is carried out for 20 hours at room temperature. Then the catalyst is filtered off and the reaction mixture is fed onto a column with 20 g of amberlite IRA-402 in the OH⃝ -form for neutralisation and is eluated with methanol. After drawing off the solvent, a colorless syrup (which cannot be used for crystallization) remains. For purification therefore the substance is only dissolved in methanol and boiled up with active charcoal. The preparation is then thoroughly dried with a continuously running oil pump. Yield: 1.35 g (99%); Rf (silica gel, acetone): 0.5.

reactant | 3,5-dimethyl-1-(2,3,5-tri-O-benzyl-α-D-arabinofuranosyl)pyrazole | 6.0 mmoles, 3 g | CC1=NN(C(=C1)C)[C@@H]1[C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](O1)COCC1=CC=CC=C1 | C31H34N2O4
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol | 25 ml | CO | CH4O
solvent | hydrochloric acid | 0.8 ml | Cl | ClH
catalyst | Pd | 1 g | [Pd] | Pd
product | 3,5-dimethyl-1-(α-D-arabinofuranosyl)pyrazole | CC1=NN(C(=C1)C)[C@@H]1[C@@H](O)[C@H](O)[C@H](O1)CO | C10H16N2O4
